US09216173B2
A mixture of benzyl tert-butyl (3,3,3-trifluoropropane-1,2-diyl)biscarbamate (160 g, 442 mmol) and palladium on carbon (10% w/w, 12 g) in methanol (1500 mL) was stirred at room temperature under a hydrogen atmosphere. After 16 hours, the reaction mixture was filtered. The filtrate was concentrated under reduced pressure, washed with hexane (500 mL), and dried in an oven under reduced pressure to afford tert-butyl (3-amino-1,1,1-trifluoropropan-2-yl)carbamate. MS ESI calc'd. for C8H16F3N2O2 [M+H]+ 229. found 229. 1H NMR (400 MHz, CDCl3) δ 5.30 (d, J=6.8 Hz, 1H), 4.23 (s, 1H), 3.10-2.98 (m, 2H), 1.63 (s, 2H), 1.46 (s, 9H).

reactant | benzyl tert-butyl (3,3,3-trifluoropropane-1,2-diyl)biscarbamate | 442 mmol, 160 g | FC(C(CNC(OCC1=CC=CC=C1)=O)NC(OC(C)(C)C)=O)(F)F | C16H21F3N2O4
catalyst | palladium on carbon | 12 g | [Pd] | Pd
solvent | methanol | 1500 mL | CO | CH4O
product | tert-butyl (3-amino-1,1,1-trifluoropropan-2-yl)carbamate | NCC(C(F)(F)F)NC(OC(C)(C)C)=O | C8H15F3N2O2
